US06225320B1
3-Hydroxy-6-trifluoromethylpyridine
3-Amino-6-trifluoromethylpyridine (9.86 g, 61 mmol) was dissolved in concentrated sulphuric acid (70 ml) and diluted with water (70 ml), then cooled to −8° C. A solution of sodium nitrite (5.18 g, 75 mmol) in water (50 ml) was slowly added, and the mixture warmed to 0° C. for 15 minutes. The solution was then poured into sulphuric acid (10 M, 250 ml) and heated to 110° C. for 1 h. After cooling, the pH was adjusted to 6 with saturated sodium bicarbonate solution, and the solution extracted with ethyl acetate (2×300 ml). The extracts were dried (MgSO4) and concentrated to give the product as a yellow solid (7.15 g, 44 mmol, 72% yield).

reactant | 3-Amino-6-trifluoromethylpyridine | 61 mmol, 9.86 g | NC=1C=NC(=CC1)C(F)(F)F | C6H5F3N2
reactant | sodium nitrite | 75 mmol, 5.18 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulphuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 70 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | sulphuric acid | 10 M, 250 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Hydroxy-6-trifluoromethylpyridine | 44 mmol, 7.15 g, 72% yield | OC=1C=NC(=CC1)C(F)(F)F | C6H4F3NO
